US09290496B2
Step 1: Preparation of tert-butyl 3-(3-methoxy-4-nitro-1H-pyrazol-1-yl)azetidine-1-carboxylate
To a cooled (0° C.) suspension of 3-methoxy-4-nitro-1H-pyrazole (1.00 g, 6.99 mmol, 1.00 eq), tert-butyl-3-hydroxypyrrolidine-1-carboxylate (2.12 g, 12.2 mmol, 1.75 eq), and polystyrene bound triphenylphosphine (4.06 g, 12.2 mmol, 1.75 eq, 3 mmol/gram) in THF (45 mL) was added diethyl azodicarboxylate (2.42 mL, 13.0 mmol, 1.90 eq) in a drop-wise manner over 3 min. The reaction mixture was allowed to warm to ambient temperature and stirred for 15 hr. The reaction mixture was then diluted with EtOAc (60 mL), filtered and the filtrate concentrated. The crude reaction mixture was purified via flash chromatography on silica gel eluting with a gradient of 0-60% EtOAc in heptane to give the title compound (1.52 g, 72.9% yield) as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 8.12 (s, 1H) 4.87 (tt, J=5.6, 7.5 Hz, 1H) 4.40-4.28 (m, 4H) 4.09 (s, 3H) 1.48 (s, 9H). m/z (APCI+) for C7H11N4O3 198.9 (M−Boc+H)+.

reactant | 3-methoxy-4-nitro-1H-pyrazole | 6.99 mmol, 1.00 g, 1.00 eq | COC1=NNC=C1[N+](=O)[O-] | C4H5N3O3
reactant | tert-butyl-3-hydroxypyrrolidine-1-carboxylate | 12.2 mmol, 2.12 g, 1.75 eq | C(C)(C)(C)OC(=O)N1CC(CC1)O | C9H17NO3
reactant | diethyl azodicarboxylate | 13.0 mmol, 2.42 mL, 1.90 eq | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 3-(3-methoxy-4-nitro-1H-pyrazol-1-yl)azetidine-1-carboxylate | 1.52 g, 72.9% yield | COC1=NN(C=C1[N+](=O)[O-])C1CN(C1)C(=O)OC(C)(C)C | C12H18N4O5
